* Z:\mnt\spice-netlists\LTC3890_4-Phase.asc
V1 IN 0 48
M§Q1 IN G1 N008 N008 BSZ100N06LS3
M§Q2 N008 N011 0 0 IPD048N06L3
D1 N003 N005 MBRS1100
C1 N003 0 4.7µ
C2 N005 N008 .1µ
L1 N008 N009 10µ
R1 N009 OUT 3m
C3 OUT 0 22µ
M§Q3 IN G2 N007 N007 BSC100N06LS3
M§Q4 N007 N010 0 0 IPD048N06L3
D2 N003 N004 MBRS1100
C4 N004 N007 .1µ
L2 N007 N006 10µ
R2 N006 OUT 3m
C5 OUT 0 22µ
R3 OUT N012 499K
R4 N012 0 35.7K
C6 N015 0 .001µ
XU1 OUT N016 N018 N017 N003 0 N002 N002 OUT N009 N012 N014 N015 N001 G1 N008 N005 N011 N003 OUT 0 IN N010 N004 N007 G2 N001 NC_01 N015 N014 N012 N006 LTC3890
C7 IN 0 2.2µ
C8 IN 0 2.2µ
C9 IN 0 2.2µ
C10 IN 0 2.2µ
R5 IN N002 499K
R6 N002 0 40.2K
C11 OUT N012 15p
C12 OUT 0 150µ
C13 OUT 0 150µ
R7 N016 0 41.2K
C14 IN 0 47µ
R8 N003 N001 100K
M§Q5 IN G3 N025 N025 BSZ100N06LS3
M§Q6 N025 N028 0 0 IPD048N06L3
D3 N020 N022 MBRS1100
C15 N020 0 4.7µ
C16 N022 N025 .1µ
L3 N025 N026 10µ
R9 N026 OUT 3m
C17 OUT 0 22µ
M§Q7 IN G4 N024 N024 BSC100N06LS3
M§Q8 N024 N027 0 0 IPD048N06L3
D4 N020 N021 MBRS1100
C18 N021 N024 .1µ
L4 N024 N023 10µ
R10 N023 OUT 3m
C19 OUT 0 22µ
XU2 OUT N029 N030 NC_02 N017 0 N002 N002 OUT N026 N012 N014 N015 N019 G3 N025 N022 N028 N020 OUT 0 IN N027 N021 N024 G4 N019 NC_03 N015 N014 N012 N023 LTC3890
C20 IN 0 2.2µ
C21 IN 0 2.2µ
C22 IN 0 2.2µ
C23 IN 0 2.2µ
C24 0 N014 47p
C25 OUT 0 150µ
C26 OUT 0 150µ
R11 N029 0 41.2K
C27 IN 0 47µ
R12 N020 N019 100K
C28 N013 0 4.7n
R13 N014 N013 15.4K
C29 N014 0 47p
Rload OUT 0 .24
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 500u startup
* Notes:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
* LTC3890 - 60V Low IQ, Dual, 2-Phase Synchronous Step-Down DC/DC Controller\nHigh Voltage, High Output Current 4-Phase Synchronous Step-Down Converter\nInput: 16V up to 60V,   Output: 12V @ 50A
.lib LTC3890.sub
.backanno
.end
