* Z:\mnt\spice-netlists\LTC3829_3-phase.asc
V1 IN 0 12
C1 0 N006 4.7µ
M§Q1 IN N009 N013 N013 RJK0305DPB
M§Q2 N013 N015 0 0 RJK0301DPB m=2
C2 N011 N013 .1µ
D1 N006 N011 CMDSH2-3
L1 N013 N014 .33µ
R1 N014 OUT 1m
C3 N016 N017 10p
R2 N014 N016 100
R3 OUT N017 100
M§Q3 IN N018 N022 N022 RJK0305DPB
M§Q4 N022 N024 0 0 RJK0301DPB m=2
C4 N020 N022 .1µ
D2 N006 N020 CMDSH2-3
L2 N022 N023 .33µ
R4 N023 OUT 1m
C5 N025 N028 10p
R5 N023 N025 100
R6 OUT N028 100
R7 N012 0 100K
C6 OUT 0 330µ X6
XU1 0 N026 NC_01 N027 N016 N017 N025 N028 N029 N012 N002 N001 N032 N030 N019 0 N010 NC_02 N005 N008 N004 N007 NC_03 N006 IN N020 N018 N022 N024 N015 N013 N009 N011 NC_04 0 N006 N021 N031 0 LTC3829
C7 N029 0 .001µ
C8 N030 0 1500p
R8 N027 N026 33.2
R9 OUT N026 1µ
R10 N031 N032 30.1K
R11 N032 0 20K
M§Q5 IN N008 N004 N004 RJK0305DPB
M§Q6 N004 N007 0 0 RJK0301DPB m=2
C9 N005 N004 .1µ
D3 N006 N005 CMDSH2-3
L3 N004 N003 .33µ
R12 N003 OUT 1m
C10 N002 N001 10p
R13 N003 N002 100
R14 OUT N001 100
R15 N021 0 28K
R16 N019 0 40.2K
R17 N010 N006 100K
C11 IN 0 10µ x3
C12 OUT 0 100µ X3
I1 OUT 0 PWL(0 0 700u 0 701u 30 850u 30 851u 0)
Rload OUT 0 50m
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
* LTC3829 - 3-Phase, Single Output Synchronous Step-Down DC/DC Controller with Diffamp\nHigh Current 3-Phase Single Output Step-Down Regulator\nInput: 12V, Output: 1.5V @60A, Fswitch = 400kHz
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
* Notes:\n1. Small value are used for TRACK/SS capacitors to reduce simulation time.\n    The typical value for actual applications will vary from 10nF to 100nF.\n2. More output capacitors may be needed to meet load step and \n    output voltage requirements.\n3. For AVP, change R9 to be 100ohm, and adjust R8 for desired Rdroop.  Redo the compensation if necessary.\n4. For nonlinear function, connect a resistor between Ifast pin and GND to set the tripping threshold.\n5. For stage shedding, connecting the Mode pin to INTVCC, and the threshold is ajusted through R16.
.lib LTC3829.sub
.backanno
.end
