* Z:\mnt\spice-netlists\LTC3788_2StageHVBoost.asc
C1 N002 0 4.7µ
V2 N001 0 8
R2 IN N009 3m
L1 N009 N010 6.8µ
M§Q1 OUT1 N005 N010 N010 Si4840DY
M§Q2 N010 N011 0 0 Si4840DY
C2 N006 N010 .1µ
D1 N002 N006 MBR0540
C3 OUT1 0 22µ
C4 N018 0 .01µ
C5 N016 0 15n
R5 OUT1 N008 12m
L2 N008 N007 100µ
M§Q4 N007 N013 0 0 BSC320N20NS3
C7 OUT 0 0.47µ
R6 N015 0 6.04K
R7 OUT N015 698K
C8 N019 0 .02µ
C9 N017 0 15n
XU1 N009 0 MP_01 MP_02 0 0 N003 N004 N008 OUT1 N015 N017 N019 MP_03 0 NC_04 NC_05 N012 N002 NC_06 0 N001 N011 N006 N005 N010 NC_07 MP_08 N018 N016 N014 IN LTC3788-1
Rload OUT 0 420
C10 IN 0 22µ x4
C11 IN 0 220µ
C13 OUT1 0 150µ
C15 N001 0 4.7µ
V1 IN 0 PWL(0 0 0.1m 12 4.5m 12 6m 3)
XU2 N001 0 N012 0 N013 N001 LTC4440-5
R8 OUT1 N004 309k
R9 N004 0 12.1k
D2 N007 OUT MURS120
C6 OUT 0 47µ
R1 N014 0 12.1K
R10 OUT1 N014 374K
R3 N001 N003 1K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 8m startup
* LTC3788-1 - 2-Phase, Dual Output Synchronous Boost Controller\nLTC4440-5 - High Speed, High Voltage, High Side Gate Driver\nTwo-Stage High Voltage Boost Converter\nInput: 3V to 36V      Output: 140V @ 1A (Iout is reduced for Vin < 10V) , Fsw = 350kHz
* Notes:\n  SS capacitors have been reduced to speed up simulation time. Typical values should be 0.1µF.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
.lib LTC3788-1.sub
.lib LTC4440-5.sub
.backanno
.end
