* Z:\mnt\spice-netlists\LTC3890_2_SEPICNONCOUPLED.asc
C1 N003 0 4.7µ
D2 N003 N010 RB160L-60
C6 N010 N012 .1µ
L3 N012 N011 2.3µ
R4 N011 OUT_3.3V 3m
C7 OUT_3.3V 0 220µ x2
R5 OUT_3.3V N016 100K
R6 N016 0 31.6K
C9 N022 0 .002µ
Rload OUT_3.3V 0 .33
XU1 OUT_3.3V N024 NC_01 NC_02 NC_03 0 N004 N004 0 N014 N017 N020 N023 N006 N008 0 N003 NC_04 N003 OUT_12V 0 IN N013 N010 N012 N007 N005 NC_05 N022 N019 N016 N011 LTC3890-2
R7 IN N004 511K
R8 N004 0 73.2K
R9 N003 N005 511K
M§Q3 N012 N013 0 0 RJK0651DPB
M§Q4 IN N007 N012 N012 RJK0651DPB
R10 N024 0 44.2K
C4 OUT_3.3V N016 10p
M§Q1 N001 N008 N009 N009 BSC067N06LS3
R1 N009 0 5m
C2 N001 N002 4.7µ x2
D1 N002 OUT_12V PDS760
R2 OUT_12V N017 100K
R3 N017 0 7.15K
C3 OUT_12V 0 220µ x2
C5 OUT_12V 0 10µ x4
Rload1 OUT_12V 0 4
L1 IN N001 15µ
L2 0 N002 15µ
R11 N003 N006 511K
C10 N003 0 .1µ
C11 0 OUT_12V 1µ
V1 IN 0 PWL(0 0 5u 14 2.5m 14 +0.1m 10 +1m 10 +0.1m 18)
C12 0 N023 .002µ
R12 N019 N018 9.76K
C8 N018 0 4.7n
R13 N021 N020 7.5K
C13 0 N021 6800p
C14 IN 0 4.7µ x4
C15 N014 0 1n
R14 N009 N014 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 4m startup
* Note:\n  LTC3890-2 SENSE Pin Common Mode Range is not dependendent on Vfb making it easy to design a non-synchronous SEPIC Converter with ground-referenced current sensing\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2017 Linear Technology Inc. All rights reserved.
* LTC3890-2 - 60V Low IQ, Dual, 2-Phase Synchronous Step-Down DC/DC Controller\nAutomotive 12V SEPIC and 3.3V Step-Down Converter\nInput: 10V to 18V     Output: 12V @ 3A & 3.3V @ 10A
.lib LTC3890-2.sub
.backanno
.end
