* Z:\mnt\spice-netlists\LTC3521_DC1389.asc
V1 IN 0 3
R1 OUT1 N008 1Meg
R2 N008 0 221K
C2 OUT1 0 22µ
L1 N004 OUT2 6.8µ
R3 OUT2 N006 137K
R4 N006 0 68.1K
C3 OUT2 0 10µ
L2 N003 N005 4.7µ
Rload2 OUT2 0 3
Rload1 OUT1 0 4
XU1 IN N007 N002 N001 IN 0 IN N008 IN IN IN 0 MP_01 N005 N003 OUT1 N009 0 MP_02 N004 0 IN N010 N006 LTC3521
L3 N009 OUT3 6.8µ
R5 OUT3 N010 100K
R6 N010 0 100K
C1 OUT3 0 10µ
Rload3 OUT3 0 2
C4 IN 0 22µ
R7 N001 IN 10K
R8 IN N007 10K
R9 IN N002 10K
.tran 750u startup
* 3.3V
* 1.8V
* 1.2V
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
* LTC3521 - 1A Buck-Boost DC/DC and Dual 600mA Buck DC/DC Converters\nInput: 2.4V to 5V     Ouputs: 3.3V @ 1A, 1.8V @ 600mA & 1.2V @ 600mA
.lib LTC3521.sub
.backanno
.end
