* Z:\mnt\spice-netlists\LTC3535_DC1483.asc
XU1 Vout1 N002 0 Vout2 N001 0 IN IN N004 IN IN N003 LTC3535
V1 IN 0 1.2
L1 IN N002 4.7µ
L2 IN N001 4.7µ
C1 Vout1 0 10µ
R1 Vout1 N003 511K
R2 N003 0 1Meg
C2 Vout2 0 10µ
R3 Vout2 N004 1.78Meg
R4 N004 0 1Meg
Rload1 Vout1 0 18
Rload2 Vout2 0 33
C3 Vout1 N003 47p
C4 Vout2 N004 20p
C5 IN 0 4.7µ
.tran .75m startup
* 1.8V
* 3.3V
* LTC3535 - Dual Channel 550mA 1MHz Synchronous Step-Up DC/DC Converter\nInput: 0.7V to 5V     Output: 1.8V @ 100mA & 3.3V @ 100mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
.lib LTC3535.sub
.backanno
.end
