* Z:\mnt\spice-netlists\LTC3536_DC1797.asc
XU1 IN 0 0 N001 N002 OUT IN IN N004 N005 0 LTC3536
V1 IN 0 PWL(0 3 0.6m 3 0.9m 4)
L1 N001 N002 4.7µ
R1 OUT N004 1Meg
R2 N004 0 220K
C1 OUT 0 22µ
C2 IN 0 10µ
C3 IN 0 1µ
R3 N003 N004 6.49K
C4 OUT N003 47p
C5 N004 N006 220p
R4 N006 N005 49.9K
Rload OUT 0 3.3
.tran 1m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
* LTC3536 - 1A Low Noise, Buck-Boost DC/DC Converter\nInput: 1.8V to 5.5V     Output: 3.3V @ 1.0A
.lib LTC3536.sub
.backanno
.end
