* Z:\mnt\spice-netlists\LTC3569_DC1340.asc
V1 IN 0 5
R1 IN N003 470K
L1 N002 OUT1 2.2µ
R2 OUT1 N004 187K
R3 N004 0 150K
C1 OUT1 N004 10p
C2 OUT1 0 10µ
L2 N006 OUT2 2.5µ
R4 OUT2 N008 232K
R5 N008 0 464K
C3 OUT2 N008 20p
C4 OUT2 0 4.7µ
L3 N005 OUT3 2.5µ
R6 OUT3 N007 412K
R7 N007 0 475K
C5 OUT3 N007 20p
C6 OUT3 0 4.7µ
Rload1 OUT1 0 2
Rload2 OUT2 0 3
Rload3 OUT3 0 2
V2 N001 0 PULSE(3 0 1m 20n 20n 1u 2u 5)
C7 IN 0 10µ
XU1 N006 IN N003 IN IN N008 N004 N007 IN 0 IN IN N001 0 N005 IN IN N002 0 0 LTC3569
.tran 1.2m startup
* 1.8V @ 1.2A
* 1.5V @ 0.6A
* 1.2V @ 0.6A
* Notes:\n  To demonstrate LTC3569 reference program feature at the time 1ms 5 pulses apply to EN1 pin. \n  It changes output voltage OUT1 from 1.8V to 1.5V, see datasheet for details. \n \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance.   This circuit is distributed to customers only for use with\n  LTC parts Copyright © 2011 Linear Technology Inc. All rights reserved.
* LTC3569 - Triple Buck Regulator With 1.2A and Two 600mA Outputs and Individual Programmable References\nInput: 2.5V to 5.5V      Output 1: 1.8V @ 1.2A     Output 2: 1.2V @ 0.6A     Output 3: 1.5V @ 0.6A
.lib LTC3569.sub
.backanno
.end
